US07868030B2
i) 5-(4-Methoxy-phenyl)-thiophene-2-sulfonyl chloride
Sulfuryl chloride (0.32 g, 2.34 mmol) was added dropwise a stirred solution of dry DMF (0.18 ml, 2.34 mmol) at 0° C. under an argon atmosphere resulting in the formation of a white solid. After 15 min, 2-(4-methoxy-phenyl)-thiophene (0.38 g, 2 mmol) was added and the mixture was warmed to 100° C. and the melt was further stirred for 45 min. Crushed ice was added and the reaction mixture was extracted with ethyl acetate (2×) and the combined organic extracts were washed with water, brine, dried (MgSO4.2H2O) filtered and concentrated under reduced pressure. The crude, green solid was purified over silica gel (ethyl acetate/n-heptane 1:9): green solid, 0.13 g (18%).

reactant | Sulfuryl chloride | 2.34 mmol, 0.32 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | DMF | 2.34 mmol, 0.18 ml | CN(C)C=O | C3H7NO
reactant | 2-(4-methoxy-phenyl)-thiophene | 2 mmol, 0.38 g | COC1=CC=C(C=C1)C=1SC=CC1 | C11H10OS
product | 5-(4-Methoxy-phenyl)-thiophene-2-sulfonyl chloride | COC1=CC=C(C=C1)C1=CC=C(S1)S(=O)(=O)Cl | C11H9ClO3S2
